US05021413
3-(pyrrolidin-1-ylmethyl)-4-(2-thienylacetyl)morpholine hydrochloride
The procedure described in Example 17 was repeated, but using 0.88 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 2.0 ml of triethylamine and 0.45 g of 2-thienylacetyl chloride, to afford 0.71 g of the title compound, melting at 215° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 0.88 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 2-thienylacetyl chloride | 0.45 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 3-(pyrrolidin-1-ylmethyl)-4-(2-thienylacetyl)morpholine hydrochloride | 0.71 g | Cl.N1(CCCC1)CC1N(CCOC1)C(CC=1SC=CC1)=O | InChI=1S/C15H22N2O2S.ClH/c18-15(10-14-4-3-9-20-14)17-7-8-19-12-13(17)11-16-5-1-2-6-16;/h3-4,9,13H,1-2,5-8,10-12H2;1H
